US09102662B2
Preparation of tert-butyl 4-{[(2S)-1-methylpyrrolidin-2-yl]methoxy}-2-(tetrahydro-2H-pyran-4-ylamino)benzoate
Tert-butyl 2-amino-4-{[(2S)-1-methylpyrrolidin-2-yl]methoxy}benzoate (400 mg, 1.3 mmol) was dissolved in 20 ml of DCM under argon atmosphere. Tetrahydro-4H-pyran-4-one (0.19 ml, 2.05 mmol), TFA (0.29 ml, 3.69 mmol) and Me4BH(OAc)3, (540 mg, 2.05 mmol) were added. The resulting slurry was stirred overnight at room temperature then quenched with 15 ml of NaHCO3 10% and extracted twice with 20 ml of DCM. The organic layers were then dried over Na2SO4, filtered off and concentrated to yield a yellow oil (448 mg, 1.15 mmol, 88%) which was used in the next step without any further purification.

reactant | Tert-butyl 2-amino-4-{[(2S)-1-methylpyrrolidin-2-yl]methoxy}benzoate | 1.3 mmol, 400 mg | NC1=C(C(=O)OC(C)(C)C)C=CC(=C1)OC[C@H]1N(CCC1)C | C17H26N2O3
reactant | Tetrahydro-4H-pyran-4-one | 2.05 mmol, 0.19 ml | O1CCC(CC1)=O | C5H8O2
reactant | TFA | 3.69 mmol, 0.29 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
product | tert-butyl 4-{[(2S)-1-methylpyrrolidin-2-yl]methoxy}-2-(tetrahydro-2H-pyran-4-ylamino)benzoate | 1.15 mmol, 448 mg, 88% | CN1[C@@H](CCC1)COC1=CC(=C(C(=O)OC(C)(C)C)C=C1)NC1CCOCC1 | C22H34N2O4
